US07449467B2
4-Chloro-6-(trifluoromethyl)pyrimidine
A solution of 6-(trifluoromethyl)pyrimidin-4-ol (5.0 g, 30.5 mmol), phosphoryl chloride (3.41 mL, 36.6 mmol), and quinoline (2.16 mL, 18.3 mmol) in toluene (50 mL) was stirred at 100° C. for 5 h. The reaction was diluted with water and extracted with ethyl acetate three times, dried with sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by flash column chromatography (10% EtOAc/Hexane) to yield the desired product (1.20 g, 21.6%). 1H NMR (400 MHz, CDCl3): 9.21 ppm (1H, s), 7.78 (1H, s).

reactant | 6-(trifluoromethyl)pyrimidin-4-ol | 30.5 mmol, 5.0 g | FC(C1=CC(=NC=N1)O)(F)F | C5H3F3N2O
reactant | phosphoryl chloride | 36.6 mmol, 3.41 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | quinoline | 18.3 mmol, 2.16 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-Chloro-6-(trifluoromethyl)pyrimidine | 1.20 g, 21.6% | ClC1=NC=NC(=C1)C(F)(F)F | C5H2ClF3N2
